Test NMOS
.model NMOS nmos (level=14 version=4.8.2)
* V Gate
*V2 2 0 0
V2 2 0 pulse (0 5 0 1u 1u 1u 20u)
* VDD
V1 1 0 5


* Mnumber d g s b model W=w L=l 
M1 3 2 0 0 NMOS W=100u L=100u
R1 1 3 10k
R2 3 4 1m
C1 4 0 1f

.tran 1u 5u